US06737417B2
Diisopropylazodicarboxylate (0.10 ml, 0.603 mmol) was added to (R)-2-(tert-butoxycarbonyl)amino-2-(4-benzyloxyphenyl)ethanol (161 mg, 0.469 mmol), 5-benzyloxy-2-bromophenol (131 mg, 0.469 mmol) and triphenylphosphine (160 mg, 0.610 mmol) in tetrahydrofuran (3 ml) under a nitrogen stream, followed by stirring for 5 hours at room temperature. Diisopropylazodicarboxylate (0.05 ml, 0.302 mmol) was added to the reaction mixture followed by stirring for 3 hours at room temperature. Water was added to the reaction mixture, which was then extracted with ethyl acetate. The organic layer was washed sequentially with water and saturated aqueous sodium chloride, dried over anhydrous sodium sulfate, and then concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (eluent: ethyl acetate/hexane=1/4, v/v) to give (R)-N-(tert-butoxycarbonyl)-2-(5-benzyloxy-2-bromophenoxy)-1-(4-benzyloxyphenyl)ethylamine (214 mg, Yield 75%).

reactant | Diisopropylazodicarboxylate | 0.603 mmol, 0.10 ml | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
reactant | (R)-2-(tert-butoxycarbonyl)amino-2-(4-benzyloxyphenyl)ethanol | 0.469 mmol, 161 mg | C(C)(C)(C)OC(=O)N[C@@H](CO)C1=CC=C(C=C1)OCC1=CC=CC=C1 | C20H25NO4
reactant | 5-benzyloxy-2-bromophenol | 0.469 mmol, 131 mg | C(C1=CC=CC=C1)OC=1C=CC(=C(C1)O)Br | C13H11BrO2
reactant | triphenylphosphine | 0.610 mmol, 160 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Diisopropylazodicarboxylate | 0.302 mmol, 0.05 ml | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | Water | O | H2O
product | (R)-N-(tert-butoxycarbonyl)-2-(5-benzyloxy-2-bromophenoxy)-1-(4-benzyloxyphenyl)ethylamine | 214 mg, Yield 75% | C(C)(C)(C)OC(=O)N[C@@H](COC1=C(C=CC(=C1)OCC1=CC=CC=C1)Br)C1=CC=C(C=C1)OCC1=CC=CC=C1 | C33H34BrNO5
